US09399636B2
Step 1: tert-butyl 3-(2,6-dichloropyridin-4-yl)azetidine-1-carboxylate
To a suspension of zinc (3.56 g, 3.0 equiv., 53.1 mmol) in DMA (8.3 mL, 88.5 mmol) was added 1,2-dibromoethane (0.37 mL, 0.24 equiv., 4.25 mmol), followed by TMS chloride (0.55 mL, 0.24 equiv., 4.25 mmol). After the reaction ceased down, a solution of 1-boc-3-(iodo)azetidine (11.3 g, 2.2 equiv., 39.0 mmol) in DMA (6.6 mL, 70.8 mmol) was added dropwise. After 30 min at 25° C. and then 2 h at 50° C., LCMS showed no m/z 228 peak. The mixture was transferred dropwise into a suspension of 2,6-dichloro-4-iodopyridine (5.00 g, 17.7 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(ii) dichloride dichloromethane adduct (738 mg, 0.050 equiv., 0.885 mmol) and cuprous iodide (337 mg, 0.10 equiv., 1.77 mmol) in DMA (16.5 mL, 177 mmol). DMA (16.5 mL, 177 mmol)) was used to rinse the flask. The whole reaction mixture was kept at 80° C. in oil-bath for 4 h. DMA was removed at 60° C. under vacuum, and the crude was purified via silica gel chromatography (0-50% EtOAc/Heptanes) to yield 1.73 g (54% based on the conversion) of the title compound. 1H NMR (400 MHz, CDCl3) δ (delta) 7.23 (s, 2H), 4.35 (t, J=8.7 Hz, 2H), 3.92 (dd, J=8.7, 5.6 Hz, 2H), 3.73-3.61 (m, 1H), 1.47 (s, 9H). 13C NMR (101 MHz, CDCl3) δ (delta) 157.03, 156.08, 151.09, 121.24, 80.24, 55.31, 32.48, 28.32. LCMS: m/z 303 (M+H).

reactant | DMA | 88.5 mmol, 8.3 mL | CC(=O)N(C)C | C4H9NO
reactant | 1,2-dibromoethane | 4.25 mmol, 0.37 mL, 0.24 equiv. | BrCCBr | C2H4Br2
reactant | TMS chloride | 4.25 mmol, 0.55 mL, 0.24 equiv. | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | 1-boc-3-(iodo)azetidine | 39.0 mmol, 11.3 g, 2.2 equiv. | C(=O)(OC(C)(C)C)N1CC(C1)I | C8H14INO2
reactant | DMA | 70.8 mmol, 6.6 mL | CC(=O)N(C)C | C4H9NO
reactant | 2,6-dichloro-4-iodopyridine | 17.7 mmol, 5.00 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | DMA | 177 mmol, 16.5 mL | CC(=O)N(C)C | C4H9NO
reactant | DMA | 177 mmol, 16.5 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 53.1 mmol, 3.56 g, 3.0 equiv. | [Zn] | Zn
product | tert-butyl 3-(2,6-dichloropyridin-4-yl)azetidine-1-carboxylate | ClC1=NC(=CC(=C1)C1CN(C1)C(=O)OC(C)(C)C)Cl | C13H16Cl2N2O2
